US05541286
(5) Preparation of methyl 3-{2-[(tert-butoxycarbonylamino)propyl]phenyl}-2-propenoate.
A solution of 3.27 g (8.54 mmol) of 2-[3-(tert-butoxycarbonylamino)propyl]phenyl trifluoromethanesulfonate, 3.62 ml (26 mmol) of triethylamine 1.15 ml (12.8 mmol) of ethyl acrylate and 0.2 g (0.3 mmol) of his (triphenylphosphine) palladium (II) chloride was heated at 110° C. in a sealed heavy-walled Pyrex, Teflon screw-capped flask for 16 hours. Ethyl acetate (100 ml) and water (100 ml) were added to the reaction mixture after it was cooled to 25° C. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried (Na2SO4) and concentrated. The residue was chromotographed on a silica gel column, eluting with a 5 to 25% gradient of ethyl acetate in hexane to afford 1.85 g (68%) of the product as an oil.

reactant | 2-[3-(tert-butoxycarbonylamino)propyl]phenyl trifluoromethanesulfonate | 8.54 mmol, 3.27 g | FC(S(=O)(=O)OC1=C(C=CC=C1)CCCNC(=O)OC(C)(C)C)(F)F | C15H20F3NO5S
reactant | triethylamine | 26 mmol, 3.62 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | (triphenylphosphine) palladium (II) chloride | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 100 ml | O | H2O
product | methyl 3-{2-[(tert-butoxycarbonylamino)propyl]phenyl}-2-propenoate | 1.85 g, 68% | C(C)(C)(C)OC(=O)NCCCC1=C(C=CC=C1)C=CC(=O)OC | C18H25NO4
